US06319939B1
Sodium tetrahydroborate (0.0502 mol) was added portionwise at 0° C. to a mixture of (±)-N-[4-(2-chloro-1-oxopropyl)phenyl]-3,4-dimethoxybenzeneacetamide (0.0502 mol) in methanol (280 ml). The mixture was stirred at 0° C. for 1 hour, then poured out into a mixture of NaOH (280 ml) and ice, stirred for 1 hour and extracted with CH2Cl2. The organic layer was separated, dried, filtered and the solvent was evaporated, yielding 15.48 g (94%) of (±)-3,4-dimethoxy-N-[4-(3-methyl-2-oxiranyl)phenyl]benzeneacetamide (interm. 11).

reactant | Sodium tetrahydroborate | 0.0502 mol | [BH4-].[Na+]
reactant | (±)-N-[4-(2-chloro-1-oxopropyl)phenyl]-3,4-dimethoxybenzeneacetamide | 0.0502 mol | ClC(C(=O)C1=CC=C(C=C1)NC(CC1=CC(=C(C=C1)OC)OC)=O)C | C19H20ClNO4
reactant | NaOH | 280 ml | [OH-].[Na+]
solvent | methanol | 280 ml | CO | CH4O
product | (±)-3,4-dimethoxy-N-[4-(3-methyl-2-oxiranyl)phenyl]benzeneacetamide | 15.48 g, 94% | COC=1C=C(C=CC1OC)CC(=O)NC1=CC=C(C=C1)C1OC1C | C19H21NO4
